US04558043
A solution of 5.03 g (20.0 mmole) of crude 5-chloro-6-(piperidin-1-yl)-benzofuran-3(2H)-one in 30 ml of absolute ether is added dropwise at room temperature to a freshly prepared Grignard solution of 750 mg (30.8 mmole) of magnesium filings and 4.0 g (28.2 mmole) of methyl iodide in 30 ml of absolute ether. The whole is subsequently boiled under reflux for 45 minutes and poured onto ice/ammonium chloride. The ether phase is separated off and the aqueous phase is extracted twice more with ether. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Chromatography over silica gel with chloroform/ethyl acetate (10:1) yields 5-chloro-3-hydroxy-3-methyl-6-(piperidin-1-yl)-2,3-dihydrobenzofuran in the form of an oil having an Rf of 0.24 [silica gel, chloroform/ethyl acetate (10:1)].

reactant | 5-chloro-6-(piperidin-1-yl)-benzofuran-3(2H)-one | 20.0 mmole, 5.03 g | ClC=1C(=CC2=C(C(CO2)=O)C1)N1CCCCC1 | C13H14ClNO2
reactant | magnesium | 30.8 mmole, 750 mg | [Mg] | Mg
reactant | methyl iodide | 28.2 mmole, 4.0 g | CI | CH3I
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 5-chloro-3-hydroxy-3-methyl-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | ClC=1C(=CC2=C(C(CO2)(C)O)C1)N1CCCCC1 | C14H18ClNO2
